Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weight loss, fatigue, dizziness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a ___ diastolic CHF 
(likely related to HTN), HTN, HLD, T2DM, and recent ___ 
admission for CHF exacerbation discharged ___, who presented to 
clinic today with 2 days of presyncope, fatigue, and weight 
loss.

The patient initially presented to ___ ___ and was diagnosed 
with heart failure. She was diuresed, but did not reliably take 
her diuretics post-discharge per chart review. Per patient she 
says she was unhappy with the care she was receiving there. She 
then presented to ___ with a repeat heart failure exacerbation 
___. Cardiac MRI showed dilated cardiomyopathy with no 
evidence of infiltrative disease, and TTE showed preserved 
ejection fraction. She was treated with a Lasix drip, and 
transitioned to torsemide. She was discharged on torsemide 80 mg 
BID with a discharge weight of 106.5 kg/234.8 lbs and creatinine 
2.1. Of note, that hospitalization was complicated by type II 
NSTEMI, secondary to demand from volume overload. Aspirin and 
atorvastatin were initiated. Her discharge medication regimen 
also included lisinopril 10 mg daily, amlodipine 10 mg daily, 
and Imdur 30 mg daily.

The patient presented to her appointment today, and was 
complaining of dizziness. She reported that two days she had an 
episode dizziness when using the bathroom. She describes this as 
feeling like the room was spinning around her and she was off 
balance. She fell off of the toilet, but did not lose 
consciousness. She shares that actually since the day after 
leaving the hospital she had been experiencing intermittent 
dizziness, worse with standing and walking. She occasionally 
would also have shortness of breath and hot flashes. She has 
been taking her medication as prescribed, and her blood sugars 
have been in the 100s. She has not been eating or drinking much 
since leaving the hospital, which she attributes to generally 
feeling poorly. She denies any post-discharge depression or 
anxiety. 

In clinic her vitals were notable for weight 224 lbs, HR 79, BP 
106/65 (despite not taking BP meds today), HR 79, T97.3. Labs 
were notable for Cr 2.8, K 5.3, and glucose 304.She was sent to 
the CDACU, where here initial BP was 90/60. The BP improved to 
135 systolic with 500cc of IV fluids. The decision was made to 
transfer the patient from the CDACU to CHF service.

Upon arrival to the floor, the patient gives the above history. 
She says she is feeling somewhat better since getting IV fluid, 
but is still a little dizzy. She adds she had some diffuse 
abdominal two days ago, but this improved after having a bowel 
movement. 
 
Past Medical History:
- Diastolic CHF, LVEF 55% ___, possibly related to HTN. 
Diagnosed ___ at ___. 
- History of CVA - treated at ___, left sided hemiparesis, ___, 
no residual deficits
- Diabetes mellitus, A1C 7.2% on admission (___), complicated 

by neuropathy 
- Hypertension
- Hyperlipidemia
- R foot ulcer, followed by podiatry
- S/p tubal ligation ___ years ago
 
Social History:
___
Family History:
Mother with T2DM and ESRD on HD. Mother has been on HD since 
about age ___. Maternal uncle also with T2DM and ESRD on HD.
Children health, 1 son with autism.
 
Physical Exam:
ADMISSION EXAM
====================
VS: T98.1 BP/HR sitting 119/71 81 BP/HR standing 86/56 96 RR 
O296 RA  
GENERAL: Well developed, well nourished woman in NAD. Oriented 
x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple. JVP flat.  
CARDIAC: RRR, normal S1, S2; S4; systolic murmur loudest at LSB.
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: No lower extremity edema. Right foot wrapped in 
gauze.  
NEURO: grossly intact, moving all extremities, finger to nose 
test intact.

DISCHARGE EXAM
===================
VS: 98.2, HR 60-70's, BP 151/82 (SBP range 128-160's), RR 18, 
98% RA
Weight:  102.1kg (103kg)
I/O:  ___
GENERAL: Well developed, well nourished woman in NAD. Oriented 
x3.
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI
NECK: Supple. JVP flat.  
CARDIAC: RRR, normal S1, S2, systolic murmur loudest at LSB.
LUNGS: Respiration is unlabored with no accessory muscle use. No 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Trace lower extremity edema with venous stasis 
changes. Right foot dressed
NEURO: grossly intact, moving all extremities
 
Pertinent Results:
ADMISSION LABS
=====================
___ 07:12PM BLOOD WBC-8.3 RBC-4.16 Hgb-11.3 Hct-35.9 MCV-86 
MCH-27.2 MCHC-31.5* RDW-13.8 RDWSD-42.9 Plt ___
___ 07:12PM BLOOD Neuts-57.8 ___ Monos-6.9 Eos-2.7 
Baso-0.4 Im ___ AbsNeut-4.80 AbsLymp-2.66 AbsMono-0.57 
AbsEos-0.22 AbsBaso-0.03
___ 10:50AM BLOOD Glucose-304* UreaN-60* Creat-2.8* Na-134 
K-5.3* Cl-96 HCO3-29 AnGap-14
___ 07:12PM BLOOD ALT-19 AST-13 AlkPhos-126* TotBili-0.2
___ 07:12PM BLOOD CK-MB-2 cTropnT-0.06* proBNP-338*
___ 05:30AM BLOOD CK-MB-2 cTropnT-0.04*
___ 07:12PM BLOOD Albumin-2.8* Calcium-8.9 Phos-4.0 Mg-1.8
___ 07:12PM BLOOD TSH-3.0
___ 07:12PM BLOOD T4-8.1
___ 07:12PM BLOOD CRP-3.8
___ 08:33PM URINE Blood-TR Nitrite-NEG Protein-300 
Glucose-300 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 08:33PM URINE RBC-5* WBC-3 Bacteri-NONE Yeast-NONE 
Epi-2
___ 08:33PM URINE Hours-RANDOM UreaN-644 Creat-112 Na-61 
TotProt-411 Prot/Cr-3.7*

DISCHARGE LABS
====================
___ 07:25AM BLOOD WBC-6.0 RBC-4.03 Hgb-11.0* Hct-35.0 
MCV-87 MCH-27.3 MCHC-31.4* RDW-13.7 RDWSD-42.7 Plt ___
___ 07:25AM BLOOD Glucose-146* UreaN-45* Creat-2.0* Na-137 
K-5.6* Cl-104 HCO3-25 AnGap-14
___ 07:25AM BLOOD Calcium-9.2 Phos-4.7* Mg-2.0

REPORTS
====================
CXR ___
No acute change.

CT Head ___
Right frontal lobe low-attenuation change at the vertex, with 
associated 
volume loss, likely sequela of chronic infarct.  Small focus of 
cortical and subcortical low-attenuation left parietal lobe may 
represent subacute or chronic infarct, consider MRI if 
clinically indicated..  Chronic bilateral lacunar infarcts basal 
ganglia. 

Renal US with Doppler ___
Normal renal ultrasound.  Mildly elevated resistive indices of 
the intrarenal arteries but no sonographically specific evidence 
of renal artery stenosis.
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a PMH diastolic CHF 
(likely related to HTN), HTN, HLD, T2DM, and recent ___ 
admission for CHF exacerbation discharged ___, who presents 
with presyncope, orthostasis, and ___, likely in the setting of 
overdiuresis. 

# Dizziness, Orthostasis:
Patient presented with dizziness and presyncope leading to fall, 
likely secondary to over-diuresis. After receiving 1L IVF, she 
felt improved and is no longer orthostatic.  After holding, 
Torsemide was resumed at a lower dose, 60mg daily, from prior 
80mg BID.  Amlodipine and Imdur and Lisinopril were all 
initially held.  Imdur and Amlodipine were resumed prior to 
discharge.  Lisinopril was held on discharge due to mild 
hyperkalemia, and can be restarted as an outpatient.

#Acute Kidney Injury on stage III-IV CKD 
Improved from Cr 2.8 to Cr 2.0 with IVF and diuretic cessation, 
c/w discharge Cr from last hospitalization. ___ likely related 
to overdiuresis. CKD likely due to longstanding diabetes and 
HTN. Renal u/s was normal with elevated resistive indices of the 
intrarenal arteries but no renal artery stenosis. Should 
follow-up outpatient non-urgently with a Nephrologist.

#Chronic Diastolic CHF:  
Most likely diastolic CHF secondary to hypertension, workup for 
other causes negative last admission. She was admitted at 10 lbs 
below her prior dry weight. Torsemide reduced from 80mg BID to 
60mg once daily.

# Prior CVA: CT head was done on admission because of report of 
a fall with headstrike. This showed findings concerning for 
sequela of chronic infarct. At this point more history was 
gathered and the patient endorsed a prior stroke, treated and 
diagnosed at ___, with no residual deficits. An MRI was ordered 
to evaluate this further, but the patient declined getting the 
study due to anxiety and fatigue. She had no active neurologic 
issues and a normal Neuro exam, so decision was made to defer 
MRI to outpatient setting.

#Type 2 Diabetes, insulin dependent:
- Continue home Lantus
- Continue home Humalog sliding scale
- Continue home Gabapentin for diabetic nephropathy

#Iron deficiency:  Received IV iron last admission.
- EGD and ___ as outpatient
- Continue home ferrous sulfate

#HLD/CAD
Patient with no diagnosed structural ischemic disease, but 
suffered from demand ischemia at last admission. 
- Continue home Atorvastatin, ASA

#Diabetic foot ulcer:  Seen by podiatry last admission, and as 
an outpatient earlier this week
- Continue dressing changes per Podiatry notes

TRANSITIONAL ISSUES
===================
- Discharge weight: 102.1kg
- Discharge diuretic: Torsemide 60mg once daily (prior dose 80mg 
BID)
- Please check electrolytes and renal function at upcoming 
primary care and cardiology visits this week. If potassium has 
normalized, can restart Lisinopril (prior dose was 40mg once 
daily)
- Have emailed ___ clinic scheduling department to arrange a 
clinic visit with a Nurse Practitioner this week. Unable to be 
arranged over weekend. Long term, she will follow-up with Dr. 
___ CHF as well.
- Should non-urgently see a Nephrologist for CKD
- Recommend outpatient ___ to evaluate iron deficiency 
anemia
- She has never had a mammogram
- Outpatient Endocrine follow up for thyroiditis (noted on 
ultrasound during prior admission) has already been scheduled
- Consider MRI Brain as outpatient to better evaluate prior CVA
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Gabapentin 100 mg PO TID 
5. Lisinopril 40 mg PO DAILY 
6. amLODIPine 10 mg PO DAILY 
7. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
8. Torsemide 80 mg PO BID 
9. Glargine 28 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % apply to painful area once daily in the 
morning Disp #*15 Patch Refills:*0 
2.  Torsemide 60 mg PO DAILY 
RX *torsemide 20 mg 3 tablet(s) by mouth once daily Disp #*90 
Tablet Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  Gabapentin 100 mg PO TID  
8.  Glargine 28 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
9.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
10. HELD- Lisinopril 40 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you get labs rechecked at your 
PCP or ___ visit

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute kidney injury on chronic kidney disease
Pre-syncope due to overdiuresis
Volume depletion

Chronic diastolic CHF
Type 2 diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

You were admitted because of dizziness and lightheadedness.  
Your blood pressure was low.  Based on our test results, this 
was likely because the dose of your diuretic (water pill - 
Torsemide) was too high.  We gave you intravenous fluids and 
your blood pressure, kidney function, and symptoms all improved.

Your Torsemide (water pill) dose is now 60mg, only ONCE PER DAY.

Also, your potassium level was mildly high.  Your Lisinopril can 
make this worse.  Thus please DO NOT TAKE YOUR LISINOPRIL until 
your potassium is rechecked by either your new PCP or your 
___.

Please be sure to see all your doctors, including your new PCP, 
___.  The Cardiology department will call you on ___ 
to schedule the next appointment with the heart failure team.

It was a pleasure, we wish you all the best.

- ___ Cardiology Team
 
Followup Instructions:
___